US04569934
A mixture of 5 g of 3-chloro-6-(3-pyridinyl)pyridazine and 30 ml of 2-amino-1-butanol is heated at 130° C. for 18 hours. Then the volatiles are removed by bulb to bulb distillation under high vacuum. As for Example 1, the product is reacted with thionyl chloride and the obtained product is ring closed with potassium carbonate in ethanol to give 2,3-dihydro-3-ethyl-6-(3-pyridinyl)imidazo[1,2-b]pyridazine which is dehydrogenated with lead tetraacetate in dichloromethane to give the desired product 3-ethyl-6-(3-pyridinyl)imidazo[1,2-b]pyridazine.

reactant | 3-chloro-6-(3-pyridinyl)pyridazine | 5 g | ClC=1N=NC(=CC1)C=1C=NC=CC1 | C9H6ClN3
reactant | 2-amino-1-butanol | 30 ml | NC(CO)CC | C4H11NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-3-ethyl-6-(3-pyridinyl)imidazo[1,2-b]pyridazine | C(C)C1CN=C2N1N=C(C=C2)C=2C=NC=CC2 | C13H14N4
